US05656629
A mixture of methyl 4-(cyanomethoxy)phenylacetate (2.5 g, 12 mmol), NaN3 (0.87 g), NH4Cl (0.72 g, 13 mmol) and DMF (20 ml) was heated at 125° C. for 24 hours. The reaction mixture was cooled, water was added and the mixture was stripped in vacuo without allowing the solution to be stripped to dryness. This procedure was repeated (2×) and then water was added, followed by 2N HCl. The product crystallized from the solution and was collected by filtration, and washed with water and air dried to afford 1.7 g (60%) of methyl 4-(5-tetrazolylmethoxy)phenylacetate.

reactant | methyl 4-(cyanomethoxy)phenylacetate | 12 mmol, 2.5 g | C(#N)COC1=CC=C(C=C1)CC(=O)OC | C11H11NO3
reactant | NaN3 | 0.87 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 13 mmol, 0.72 g | [NH4+].[Cl-]
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | methyl 4-(5-tetrazolylmethoxy)phenylacetate | 1.7 g, 60% | N1N=NN=C1COC1=CC=C(C=C1)CC(=O)OC | C11H12N4O3
